US08491869B2
Preparation of 2-((4-(methylamino)-3-nitrophenyl)ethynyl)benzo[d]thiazol-6-ol
To a round bottomed flask equipped with a magnetic stir bar containing DCM (5 vol) is placed 4-((6-methoxybenzo[d]thiazol-2-yl)ethynyl)-N-methyl-2-nitroaniline (1 equiv). The reaction mixture is cooled to 0° C., BBr3 (5 equiv of 1M in DCM) is added dropwise and the reaction is stirred at RT for 8 hours. The reaction is neutralized with sat. NaHCO3, extracted into DCM (2×5 vol). The combined organic extracts are washed with water (5 vol), brine (5 vol), dried over MgSO4 and concentrated in vacuo. The residue is purified over silica gel using EtOAc:Hexanes (1:3) as an eluent to afford the desired product.

reactant | 4-((6-methoxybenzo[d]thiazol-2-yl)ethynyl)-N-methyl-2-nitroaniline | 1 equiv | COC1=CC2=C(N=C(S2)C#CC2=CC(=C(NC)C=C2)[N+](=O)[O-])C=C1 | C17H13N3O3S
reactant | BBr3 | 1M, 5 equiv | B(Br)(Br)Br | BBr3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-((4-(methylamino)-3-nitrophenyl)ethynyl)benzo[d]thiazol-6-ol | CNC1=C(C=C(C=C1)C#CC=1SC2=C(N1)C=CC(=C2)O)[N+](=O)[O-] | C16H11N3O3S
